US07745663B2
To a solution of a known compound, 3-(1-ethoxyethylideneaminooxy)-propanoic acid methyl ester (CAS No. 97164-30-2, 41.3 g, 0.218 mol) in methanol (150 ml) was added methylamine (40% solution in methanol, 200 ml) at room temperature, and the mixture was stirred at 60° C. for 12 hours. The reaction mixture was concentrated under reduced pressure to give N-(2-methylcarbamoyl-ethoxy)-acetimidic acid ethyl ester (41.0 g, 100%).

reactant | 3-(1-ethoxyethylideneaminooxy)-propanoic acid methyl ester | COC(CCON=C(C)OCC)=O | C8H15NO4
reactant | methylamine | 200 ml | CN | CH5N
solvent | methanol | 150 ml | CO | CH4O
product | N-(2-methylcarbamoyl-ethoxy)-acetimidic acid ethyl ester | 41.0 g, 100% | C(C)OC(C)=NOCCC(NC)=O | C8H16N2O3
